US08859574B2
To a suspension of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (2.50 g, 6.0 mmol) in a mixed solvent of MeOH (42 mL) and DCM (10 mL) was added dihydro-2H-pyran-4(3H)-one (3.33 mL, 36.0 mmol) and TEA (8.36 mL, 60.0 mmol). The reaction mixture was heated at 60° C. for 1 h before NaCNBH3 (1.66 g, 26.4 mmol) was added. The mixture was heated at 60° C. for another 2 h, cooled down to room temperature, diluted with DCM (60 mL), dry loaded onto silica gel (12.5 g), and purified by silica gel chromatography (DCM with 1% NH3 to 10% MeOH in DCM with 1% NH3 gradient) to provide 5-chloro-N2-(2-fluoro-5-methyl-4-(1-(tetrahydro-2H-pyran-4-yl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid; 1H NMR (DMSO-d6, 400 MHz) δ 12.08 (br, 1H), 9.58 (br, 1H), 8.65 (d, J=28.4 Hz, 1H), 8.02 (s, 1H), 7.36 (d, J=8.4 Hz, 1H), 7.03 (d, J=12.4 Hz, 1H), 6.08 (br, 1H), 3.89 (dd, J=10.8, 3.6 Hz, 2H), 3.28 (t, J=10.4 Hz, 2H), 2.99 (d, J=10.8 Hz, 2H), 2.64-2.43 (m, 2H), 2.24-2.15 (m, 8H), 1.71-1.40 (m, 8H); ESMS m/z 500.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 6.0 mmol, 2.50 g | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | MeOH | 42 mL | CO | CH4O
reactant | dihydro-2H-pyran-4(3H)-one | 36.0 mmol, 3.33 mL | O1CCC(CC1)=O | C5H8O2
reactant | NaCNBH3 | 26.4 mmol, 1.66 g | [BH3-]C#N.[Na+]
solvent | DCM | 60 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-chloro-N2-(2-fluoro-5-methyl-4-(1-(tetrahydro-2H-pyran-4-yl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)C1CCOCC1)F)NC1=NNC(=C1)C | C25H31ClFN7O
